US09212190B2
A 25-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was charged with a solution of 3-[(3S)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanenitrile (80 mg, 0.17 mmol, 1.00 equiv) in methanol (5 mL) and cooled to 0° C. Then LiOH.H2O (22 mg, 0.52 mmol, 3.00 equiv) and H2O2 (30%, 0.3 mL) were added at 0° C. and the resulting solution was stirred for 2 h at the same temperature. The reaction was quenched by the addition of saturated aqueous Na2SO3 and extracted DCM. The organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by preparative HPLC under the following conditions (SHIMADZU): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with 0.05% NH4HCO3 and CH3CN (6.0% CH3CN up to 50.0% in 16 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired 3-[(3S)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide (82.5 mg) as a white solid. MS (ES): m/z 486 [M+H]+; 1H NMR (400 MHz, CD3OD): δ 8.47 (1H, s), 5.32-5.22 (1H, m), 3.58 (2H, t), 3.45 (2H, t), 3.35 (2H, s), 3.20-3.09 (1H, m), 3.03-2.95 (1H, m), 2.73-2.65 (2H, m), 2.37 (3H, s), 2.33-2.19 (5H, m), 2.03-1.88 (6H, m), 1.66 (2H, m), 1.69-1.52 (4H, m).

reactant | 3-[(3S)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanenitrile | 0.17 mmol, 80 mg, 1.00 equiv | CN(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCC#N)CC(N1CCCC1)=O | C25H33N5O2S
reactant | LiOH.H2O | 0.52 mmol, 22 mg, 3.00 equiv | O[Li].O
reactant | H2O2 | 0.3 mL | OO | H2O2
solvent | methanol | 5 mL | CO | CH4O
product | 3-[(3S)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide | 82.5 mg | CN(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCC(=O)N)CC(N1CCCC1)=O | C25H35N5O3S
